US05434181
A solution of 25.0 g of diethyl malonate in 5 ml of dimethylformamide was added dropwise under ice-cooling over 20 minutes to a suspension of 6.55 g of sodium hydride in 90 ml of dimethylformamide. The reaction fluid was stirred for an hour under ice-cooling, to which a solution of 17.3 g of chloroacetone in 5 ml of dimethylformamide was added, and the mixture was stirred for an hour under ice-cooling and for 6 hours at room temperature. Ethyl acetate was added to the reaction fluid and the mixture was washed with water. The organic layer was dried over anhydrous magnesium sulfate. An oily matter obtained by concentrating the organic layer under a reduced pressure was distilled under vacuum to obtain 14.8 g of diethyl 2-oxopropylmalonate as a yellow oily matter.

reactant | diethyl malonate | 25.0 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | sodium hydride | 6.55 g | [H-].[Na+]
reactant | chloroacetone | 17.3 g | ClCC(C)=O | C3H5ClO
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 90 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | diethyl 2-oxopropylmalonate | 14.8 g | O=C(CC(C(=O)OCC)C(=O)OCC)C | C10H16O5
